US06174459B1
Under a nitrogen gas stream, 3.13 g (129 mmol) of magnesium was added to 50 ml of THF, and while a reaction temperature was maintained at about 50° C., 300 ml of THF containing 22.7 g (118 mmol) of 3,5-difluoro-1-bromobenzene was added dropwise. After stirring for 1 hour at room temperature, 300 ml of THF containing 30.0 g (97.9 mmol) of 4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexanone was added dropwise. Next, after stirring at 50 to 60° C. for 2 hours, 200 ml of an aqueous saturated ammonium chloride solution was added, thereby terminating the reaction. The reaction mixture was filtered through Celite, and the solvent was then distilled off under reduced pressure, followed by extraction with 500 ml of toluene. The resulting organic layer was washed 3 times with 200 ml of water, and then dried over anhydrous magnesium sulfate. After drying, 1.50 g of p-toluenesulfonic acid monohydrate was added, and heating was done under reflux for 4 hours. The organic layer was washed 3 times with 200 ml of water, and then dried over anhydrous magnesium sulfate. Next, the solvent was distilled off under reduced pressure, and the resulting residue was purified through silica gel column chromatography (a developing solvent: heptane) to obtain 26.4 g of crude 1,3-difluoro-5-(4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexene-1-yl)benzene.

reactant | magnesium | 129 mmol, 3.13 g | [Mg] | Mg
reactant | 3,5-difluoro-1-bromobenzene | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | 4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexanone | C(CCCC)[C@@H]1CC[C@H](CC1)CCCCC1CCC(CC1)=O | C21H38O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 97.9 mmol, 300 ml, 30.0 g | C1CCOC1 | C4H8O
solvent | THF | 118 mmol, 300 ml, 22.7 g | C1CCOC1 | C4H8O
product | 1,3-difluoro-5-(4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexene-1-yl)benzene | 26.4 g | FC1=CC(=CC(=C1)C1=CCC(CC1)CCCC[C@@H]1CC[C@H](CC1)CCCCC)F | C27H40F2
